US04079066
7-[2-(N-benzyl-N-methylamino)ethoxy]-2,2-dimethyl-4-(2-naphthyl)-2H-chromene
Reaction of N-benzyl-N-(2-chloroethyl)methylamine hydrochloride with 2,2-dimethyl-4-(2-naphthyl)2H-chromene-7-ol by an analogous method to that described in Example 7 (c) gave the title compound (46%) as a colourless oil, The hydrochloride salt had m.p. 112° - 115° C decomposed.

reactant | N-benzyl-N-(2-chloroethyl)methylamine hydrochloride | Cl.C(C1=CC=CC=C1)N(CCCl)C
reactant | 2,2-dimethyl-4-(2-naphthyl)2H-chromene-7-ol | CC1(OC2=CC(=CC=C2C(=C1)C1=CC2=CC=CC=C2C=C1)O)C | C21H18O2
product | 7-[2-(N-benzyl-N-methylamino)ethoxy]-2,2-dimethyl-4-(2-naphthyl)-2H-chromene | 46% | C(C1=CC=CC=C1)N(C)CCOC1=CC=C2C(=CC(OC2=C1)(C)C)C1=CC2=CC=CC=C2C=C1 | C31H31NO2
